### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean [hunk 1]
```diff
@@ -14,17 +14,17 @@ import Mathlib.RingTheory.TensorProduct
 ## Main definitions
 
 * `CategoryTheory.ModuleCat.restrictScalars`: given rings `R, S` and a ring homomorphism `R ⟶ S`,
-  then `restrictScalars : Module S ⥤ Module R` is defined by `M ↦ M` where `M : S-module` is seen
-  as `R-module` by `r • m := f r • m` and `S`-linear map `l : M ⟶ M'` is `R`-linear as well.
+  then `restrictScalars : ModuleCat S ⥤ ModuleCat R` is defined by `M ↦ M` where `M` as `S`-module
+  is seen as `R`-module by `r • m := f r • m` and `S`-linear map `l : M ⟶ M'` is `R`-linear as well.
```
Comment (j-loreaux) [inline Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean:18]:
```suggestion
  then `restrictScalars : ModuleCat S ⥤ ModuleCat R` is defined by `M ↦ M` where an `S`-module `M`
  is seen as an `R`-module by `r • m := f r • m` and `S`-linear map `l : M ⟶ M'` is `R`-linear as well.
```

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean [hunk 2]
```diff
@@ -14,17 +14,17 @@ import Mathlib.RingTheory.TensorProduct
...
-  `f : R ⟶ S`, then `extendScalars : Module R ⥤ Module S` is defined by `M ↦ S ⨂ M` where the
+  `f : R ⟶ S`, then `extendScalars : ModuleCat R ⥤ ModuleCat S` is defined by `M ↦ S ⨂ M` where the
   module structure is defined by `s • (s' ⊗ m) := (s * s') ⊗ m` and `R`-linear map `l : M ⟶ M'`
   is sent to `S`-linear map `s ⊗ m ↦ s ⊗ l m : S ⨂ M ⟶ S ⨂ M'`.
 
 * `CategoryTheory.ModuleCat.coextendScalars`: given rings `R, S` and a ring homomorphism `R ⟶ S`
-  then `coextendScalars : Module R ⥤ Module S` is defined by `M ↦ (S →ₗ[R] M)` where `S` is seen as
-  `R-module` by restriction of scalars and `l ↦ l ∘ _`.
+  then `coextendScalars : ModuleCat R ⥤ ModuleCat S` is defined by `M ↦ (S →ₗ[R] M)` where `S` is
+  seen as `R`-module by restriction of scalars and `l ↦ l ∘ _`.
```
Comment (j-loreaux) [inline Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean:27]:
```suggestion
  seen as an `R`-module by restriction of scalars and `l ↦ l ∘ _`.
```

File: Mathlib/LinearAlgebra/Basic.lean [hunk 3]
```diff
@@ -389,23 +383,22 @@ theorem injective_of_iterate_injective {n : ℕ} (hn : n ≠ 0) (h : Injective (
...
+  rw [← Nat.succ_pred_eq_of_pos (pos_iff_ne_zero.mpr hn), pow_succ, coe_mul] at h
   exact Surjective.of_comp h
 #align linear_map.surjective_of_iterate_surjective LinearMap.surjective_of_iterate_surjective
 
 theorem pow_apply_mem_of_forall_mem {p : Submodule R M} (n : ℕ) (h : ∀ x ∈ p, f' x ∈ p) (x : M)
     (hx : x ∈ p) : (f' ^ n) x ∈ p := by
-  induction' n with n ih generalizing x; · simpa
+  induction' n with n ih generalizing x
+  · simpa
   simpa only [iterate_succ, coe_comp, Function.comp_apply, restrict_apply] using ih _ (h _ hx)
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Basic.lean:394]:
```suggestion
  · simpa only [iterate_succ, coe_comp, Function.comp_apply, restrict_apply] using ih _ (h _ hx)
```

**Review by j-loreaux — APPROVED** [review]
Thanks! Only minor edits.

**Comment by j-loreaux** [comment]
bors d+
